US04785010
1-(Methoxycarbonyl-methyl)-2-(phthalimido-methyl)-5-methylpyrrole
18.1 g (0.07 mol) of 6-phthalimido-2,5-hexanedione, 10.0 g (0.08 mol) of glycine methyl ester hydrochloride and 6.6 g (0.08 mol) of sodium acetate are stirred in 300 ml of acetic at 80° C. for 3 hours. After the mixture has been concentrated, the residue is taken up in aqueous sodium bicarbonate solution, the mixture is extracted with methylene chloride, the extract is dried and concentrated and the residue is recrystallised from methanol.

reactant | 6-phthalimido-2,5-hexanedione | 0.07 mol, 18.1 g | C1(C=2C(C(N1CC(CCC(C)=O)=O)=O)=CC=CC2)=O | C14H13NO4
reactant | glycine methyl ester hydrochloride | 0.08 mol, 10.0 g | Cl.COC(CN)=O
reactant | sodium acetate | 0.08 mol, 6.6 g | C(C)(=O)[O-].[Na+]
solvent | acetic | 300 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
product | 1-(Methoxycarbonyl-methyl)-2-(phthalimido-methyl)-5-methylpyrrole | COC(=O)CN1C(=CC=C1C)CN1C(C=2C(C1=O)=CC=CC2)=O | C17H16N2O4
